US08389771B2
4-((3-bromophenyl)ethynyl)heptan-4-ol was coupled with 2,2,2-trifluoro-N-(prop-2-ynyl)acetamide following the procedure described in Example 10 to give 2,2,2-trifluoro-N-(3-(3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)prop-2-ynyl)acetamide as a pale yellow oil. Yield (0.083 g, 6%): 1H NMR (400 MHz, DMSO-d6) δ 10.03 (t, J=5.2 Hz, 1H), 7.40-7.33 (m, 4H), 5.16 (bs, 1H), 4.25 (d, J=5.6 Hz, 2H), 1.61-1.39 (m, 8H), 0.89 (t, J=7.2 Hz, 6H).

reactant | 4-((3-bromophenyl)ethynyl)heptan-4-ol | BrC=1C=C(C=CC1)C#CC(CCC)(CCC)O | C15H19BrO
reactant | 2,2,2-trifluoro-N-(prop-2-ynyl)acetamide | FC(C(=O)NCC#C)(F)F | C5H4F3NO
product | 2,2,2-trifluoro-N-(3-(3-(3-hydroxy-3-propylhex-1-ynyl)phenyl)prop-2-ynyl)acetamide | FC(C(=O)NCC#CC1=CC(=CC=C1)C#CC(CCC)(CCC)O)(F)F | C20H22F3NO2
